US08685969B2
3. Methyl-4-bromo-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate
Bromosuccinimide (0.633 g, 3.56 mmol) was quickly added to a stirred mixture of methyl 1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate (0.783 g, 3.23 mmol) in DMF (20 mL) at room temperature. The reaction was exothermic and turned brown. The reaction mixture was stirred for four hours. at room temperature. LC-MS showed complete conversion to the desired product mass. The reaction mixture was poured in to 200 ml water with stirring, then filtered. The residue was washed with water, then slurred in hot methanol, and filtered. The residue was then dried under vacuum overnight to give Methyl-4-bromo-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate as a light brown solid. [0.898 g, 2.80 mmol, 87% yield]. The product had an HPLC Retention Time=2.703 min [4 min grad, 10% MeOH/water to 90% MeOH/water, 0.1% TFA, YMC COMBISCREEN® ODS-A, 4.6×50 mm, 220 nM]; LC/MS+1 320.86, 322.86

reactant | Bromosuccinimide | 3.56 mmol, 0.633 g | BrC1C(=O)NC(C1)=O | C4H4BrNO2
reactant | methyl 1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate | 3.23 mmol, 0.783 g | O=C1NC=CC=2NC=3C=C(C=CC3C21)C(=O)OC | C13H10N2O3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl-4-bromo-1-oxo-2,5-dihydro-1H-pyrido[4,3-b]indole-7-carboxylate | COC(=O)C=1C=CC=2C3=C(NC2C1)C(=CNC3=O)Br | C13H9BrN2O3
